US05194664
2-(4-Carbomethoxyphenyl)-1-(5,6,7,8-tetrahydro-4-methoxy-5,5,8,8-tetramethyl-2-naphthyl)ethanone
2.1 g of zinc powder and 0.21 g of copper(II) acetate were stirred with 7.3 ml of acetic acid at 20° C., with cooling, for 30 min. The zinc/copper couple was filtered off with suction and washed 2× with dry ether and 1× with dry dimethoxyethane. A solution of 4.5 g (16 mmol) of 5,6,7,8-tetrahydro-4-methoxy-5,5,8,8-tetramethylnaphthalene-2-carbonyl chloride and 3.7 g (16 mmol) of methyl 4-bromomethylbenzoate in 60 ml of dimethoxyethane was added dropwise to a suspension of the zinc/copper couple prepared in this way and of 0.56 g of bis(triphenylphosphine)palladium(II) chloride in 15 ml of dimethoxyethane at room temperature. The mixture was stirred for 75 min and then filtered through Celite, and the filtrate was concentrated. Three recrystallizations of the residue from methanol yielded 2.0 g of the title compound of melting point 143°-144° C.

reactant | acetic acid | 7.3 ml | C(C)(=O)O | C2H4O2
reactant | 5,6,7,8-tetrahydro-4-methoxy-5,5,8,8-tetramethylnaphthalene-2-carbonyl chloride | 16 mmol, 4.5 g | COC1=CC(=CC=2C(CCC(C12)(C)C)(C)C)C(=O)Cl | C16H21ClO2
reactant | methyl 4-bromomethylbenzoate | 16 mmol, 3.7 g | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
solvent | dimethoxyethane | 60 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 15 ml | C(OC)COC | C4H10O2
catalyst | zinc | 2.1 g | [Zn] | Zn
catalyst | copper(II) acetate | 0.21 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
catalyst | zinc copper | [Zn].[Cu]
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.56 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(4-Carbomethoxyphenyl)-1-(5,6,7,8-tetrahydro-4-methoxy-5,5,8,8-tetramethyl-2-naphthyl)ethanone | 2.0 g | C(=O)(OC)C1=CC=C(C=C1)CC(=O)C1=CC=2C(CCC(C2C(=C1)OC)(C)C)(C)C | C25H30O4
